US05552427
Preparation of methyl (4S)-4-amino-4-[(1-methylimidazol-2-yl)carbamoyl]butyrate dihydrochloride:
Benzyl (4S)-4-t-butoxycarbonylamino-4-[(1-methylimidazol-2-yl)carbamoyl]butyrate (113 mg) was dissolved in methanol (2.7 ml), and 20% hydrochloric acid-methanol (1.8 ml) was added. The mixture was stirred at room temperature for 2 hours. The solvent was evaporated under reduced pressure. The residue was triturated in ether, separated by filtration, washed with ether, and dried to give the title compound (83 mg).

reactant | Benzyl (4S)-4-t-butoxycarbonylamino-4-[(1-methylimidazol-2-yl)carbamoyl]butyrate | 113 mg | C(C)(C)(C)OC(=O)N[C@@H](CCC(=O)OCC1=CC=CC=C1)C(NC=1N(C=CN1)C)=O | C21H28N4O5
reactant | hydrochloric acid methanol | 1.8 ml | Cl.CO
solvent | methanol | 2.7 ml | CO | CH4O
product | methyl (4S)-4-amino-4-[(1-methylimidazol-2-yl)carbamoyl]butyrate dihydrochloride | 83 mg | Cl.Cl.N[C@@H](CCC(=O)OC)C(NC=1N(C=CN1)C)=O | InChI=1S/C10H16N4O3.2ClH/c1-14-6-5-12-10(14)13-9(16)7(11)3-4-8(15)17-2;;/h5-7H,3-4,11H2,1-2H3,(H,12,13,16);2*1H/t7-;;/m0../s1
